US08871756B2
4-[(3-Aminopropyl)amino]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-ol
A mixture of 4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-quinolin-6-ol (400 mg, 1.067 mmol) and propane-1,3-diamine (158 mg, 2.134 mmol) was heated with stirring for 1.5 hours at 150° C. under microwave irradiation. The reacting mixture was purified by preparative HPLC and SPE to give 118.8 mg of the desired product (yield was 27%). MS obsd. (ESI+)[(M+H)+] 413, 1H NMR (400 MHz, CD3OD) δ ppm 8.10-8.05 (d, J=7.6 Hz, 1 H), 7.85-7.80 (d, J=8 Hz, 1 H), 7.71-7.62 (m, 2 H), 7.60-7.52 (t, J=7.2 Hz, 1 H), 7.40-7.35 (m, 1 H), 7.26-7.20 (dd, J=2.8 Hz, 12.8 Hz, 1 H), 5.91 (s, 1 H), 5.27 (s, 2 H), 4.52-4.42 (m, 2 H), 3.72-3.68 (t, J=2.8 Hz, 2 H), 3.60-3.52 (t, J=6.8 Hz, 2 H), 3.10-3.02 (t, J=7.2 Hz, 2 H), 2.10-2.00 (m, 2 H);

reactant | 4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-quinolin-6-ol | 1.067 mmol, 400 mg | ClC1=CC(=NC2=CC=C(C=C12)O)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C18H15ClN2O3S
reactant | propane-1,3-diamine | 2.134 mmol, 158 mg | C(CCN)N | C3H10N2
product | 4-[(3-Aminopropyl)amino]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-ol | 118.8 mg, yield was 27% | NCCCNC1=CC(=NC2=CC=C(C=C12)O)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C21H24N4O3S
